US09227956B2
Step 1: tert-butyl (3R)-3-[{4-[5-(methoxycarbonyl)-1-methyl-1H-pyrazol-4-yl]benzoyl}(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate
To a solution of 4-iodo-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester (8.1 g, 30.45 mmol) in THF (anhydrous, 60 mL) was added isopropyl magnesium chloride (16.5 mL, 16.5 mmol) at −45° C. The solution turned from clear to light green-yellowish. Stirred at this temperature for 30 min, GC-MS (sample in CD3OD) indicated all halogen-metal exchange completed. To the mixture was added 1.9 N ZnCl2 in 2-MeTHF (9.62 mL, 18.3 mmol) dropwise and the reaction was warmed to room temperature. The mixture was stirred for 2 h, over which time it turned from clear yellowish to an opaque yellowish mixture. To this reaction was added Preparation 2 tert-butyl 3-[(4-bromobenzoyl)(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate (12.04 g, 25.37 mmol) as a solid in one batch. The reaction temperature was then raised to 50° C., 1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride (166 mg, 0.254 mmol) was added. The reaction was then stirred at 60° C. for 2 h then cooled to room temperature. The reaction was quenched with water and extracted 3× EtOAc. The organic layer was dried and concentrated. Purification was performed by Combiflash ISCO column (220 g) 0-75% EtOAc/heptane to isolate the desired title compound (12.8 g, 78%).

reactant | 4-iodo-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester | 30.45 mmol, 8.1 g | COC(=O)C=1N(N=CC1I)C | C6H7IN2O2
reactant | isopropyl magnesium chloride | 16.5 mmol, 16.5 mL | C(C)(C)[Mg]Cl
reactant | 2-MeTHF | 18.3 mmol, 9.62 mL | CC1CCCO1 | C5H10O
reactant | tert-butyl 3-[(4-bromobenzoyl)(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate | 25.37 mmol, 12.04 g | BrC1=CC=C(C(=O)N(C2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC=C2C)C=C1 | C23H28BrN3O3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 1.9 N | [Cl-].[Cl-].[Zn+2]
product | tert-butyl (3R)-3-[{4-[5-(methoxycarbonyl)-1-methyl-1H-pyrazol-4-yl]benzoyl}(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate | 12.8 g, 78% | COC(=O)C1=C(C=NN1C)C1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC=C2C)C=C1 | C29H35N5O5
